US06117884
4-((3-Trifluoromethyl-2-pyridinyloxy)methyl)-7-chloroquinoline
4-Hydroxymethyl-7-chloroquinoline (0.6 g, 3.12 mmol) was dissolved with stirring in dry THF (20 mls) and sodium hydride (0.15 g, 60% dispersion in mineral oil, 3.75 mmol) added. The mixture was stirred at room temperature for one hour and 2-chloro-3-trifluoromethylpyridine (0.62 g, 3.42 mmol) added. The mixture was stirred overnight and worked up to provide the product (0.9 g, % as a tan solid, mp 125-7° C.

reactant | 4-Hydroxymethyl-7-chloroquinoline | 3.12 mmol, 0.6 g | OCC1=CC=NC2=CC(=CC=C12)Cl | C10H8ClNO
reactant | sodium hydride | 3.75 mmol, 0.15 g | [H-].[Na+]
reactant | 2-chloro-3-trifluoromethylpyridine | 3.42 mmol, 0.62 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
solvent | THF | 20 mls | C1CCOC1 | C4H8O
product | 4-((3-Trifluoromethyl-2-pyridinyloxy)methyl)-7-chloroquinoline | FC(C=1C(=NC=CC1)OCC1=CC=NC2=CC(=CC=C12)Cl)(F)F | C16H10ClF3N2O
